US06177419B1
33) Preparation of 6,6′-Bis(2-hydroxy-3-ethoxyphenyl)-2,2′-bipyridine
6,6′-Bis(2-hydroxy-3-ethoxyphenyl)-2,2′-bipyridine was prepared by reaction of 2-hydroxy-3-ethoxyphenylboronic acid (836 mg, 4.60 mmol) with 6,6-dibromo-2,2′-bipyridyl (722 mg, 2.30 mmol), sodium carbonate (2N solution, 6 ml) and tetrakis(triphenylphosphine) palladium (40 mg) in ethylene glycol dimethyl ether (30 ml) at reflux under nitrogen for 4 hours. The solid was filtered from the cooled reaction and washed with ether and water and toluene, to give the desired product as a yellow solid (446 mg, 48%);δH [2H6]-DMSO 8.33,(2H, d), 8.23,(2H, t), 8.14,(2H, d), 7.68,(2H, d), 7.05,(2H, d), 6.88,(2H, t), 4.06,(4H, q), 1.35,(6H, t).

reactant | 2-hydroxy-3-ethoxyphenylboronic acid | 4.60 mmol, 836 mg | OC1=C(C=CC=C1OCC)B(O)O | C8H11BO4
reactant | 6,6-dibromo-2,2′-bipyridyl | 2.30 mmol, 722 mg | BrC1(C=CC=C(N1)C1=NC=CC=C1)Br | C10H8Br2N2
reactant | sodium carbonate | 2N, 6 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 30 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium | 40 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6,6′-Bis(2-hydroxy-3-ethoxyphenyl)-2,2′-bipyridine | 446 mg, 48% | OC1=C(C=CC=C1OCC)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=C(C(=CC=C1)OCC)O | C26H24N2O4
